US05968688
2 g of 1,2,3,4-Tetrafluoroanthraquinone and 25 g of o-anisidine were charged in a 50 cc, four necked flask and then the reaction was carried out at 50° C. for about 4 hours. After completion of reaction, o-anisidine was distilled out from the reaction solution and then a column purification using a column with a silica gel was effected to give rise to 1.91 g of 2-(o-methoxyanilino)-1,3,4-trifluoroanthraquinone (Dye 6') (yield 69.8 mol %) and 0.85 g of 2,3,-bis(o-methoxyanilino-1,4-difluoroanthraquinone (Dye 19') (yield 24.5 mol %). The physical properties of Dye 6' and analytical values defining the compound are tabulated in Table 23 and the physical properties of Dye 19' and analytical values defining the compound are tabulated in Table 24.

reactant | 1,2,3,4-Tetrafluoroanthraquinone | 2 g | FC1=C(C(=C(C=2C(C3=CC=CC=C3C(C12)=O)=O)F)F)F | C14H4F4O2
reactant | o-anisidine | 25 g | COC=1C(=CC=CC1)N | C7H9NO
product | 2-(o-methoxyanilino)-1,3,4-trifluoroanthraquinone | 1.91 g | COC1=C(NC2=C(C=3C(C4=CC=CC=C4C(C3C(=C2F)F)=O)=O)F)C=CC=C1 | C21H12F3NO3
